US06664271B1
The reaction was run in the same manner as ethyl 1-(3-thiophenecarbonyl)-3-piperidinecarboxylate, starting with 1-(2-thiopheneacetyl)-3-piperidine carboxylic acid (572.1 mg; 2.26 mmol) and commercially available N,N-dimethyl ethylenediamine (250 μl; 2.28 mmol). The crude product was purified by chromatography on silica, eluting with 70% methanol in dichloromethane, giving 2-dimethylaminoethyl 1-(2-thiopheneacetyl)-3-piperidinecarboxamide (128.3 mg) as a colorless oil. MS m/z (positive ion) 324 (MH+; 100).

reactant | ethyl 1-(3-thiophenecarbonyl)-3-piperidinecarboxylate | S1C=C(C=C1)C(=O)N1CC(CCC1)C(=O)OCC | C13H17NO3S
reactant | 1-(2-thiopheneacetyl)-3-piperidine carboxylic acid | 2.26 mmol, 572.1 mg | S1C(=CC=C1)CC(=O)N1CC(CCC1)C(=O)O | C12H15NO3S
reactant | N,N-dimethyl ethylenediamine | 2.28 mmol, 250 μl | CN(CCN)C | C4H12N2
product | 2-dimethylaminoethyl 1-(2-thiopheneacetyl)-3-piperidinecarboxamide | 128.3 mg | CN(CCC1N(CCCC1C(=O)N)C(CC=1SC=CC1)=O)C | C16H25N3O2S
